US04154834
Ethyl 2-thiazoleacrylate (14.8 g) was dissolved in ethanol (170 ml) and hydrogenated at 40° and a pressure of 50 psi using 10% Palladium on charcoal to give ethyl 2-thiazolepropionate.

reactant | Ethyl 2-thiazoleacrylate | 14.8 g | S1C(=NC=C1)C=CC(=O)OCC | C8H9NO2S
solvent | ethanol | 170 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | [Pd] | Pd
product | ethyl 2-thiazolepropionate | S1C(=NC=C1)CCC(=O)OCC | C8H11NO2S
